US04214094
A mixture of 6.27 g of 2-[4-(4-chloroanilinomethyl)-phenoxy]-2-methylpropionic acid, 120 ml of absolute ethanol and 2.2 g of concentrated sulfuric acid is refluxed under heating for 3 hours and 40 minutes. The ethanol is distilled off from the reaction mixture under reduced pressure. The residue is basified with a dilute aqueous solution of sodium bicarbonate, and the resulting solution is extracted three times with ether. The extract is washed with water once, then with a dilute aqueous solution of sodium bicarbonate twice and thereafter with water twice and is subsequently dried over magnesium sulfate. The dried extract is concentrated under reduced pressure, and the resulting oily concentrate is dissolved in ether. Ethanol and hydrochloric acid are added to the solution, and the precipitated crystals are collected by filtration, washed with ether and recrystallized from isopropyl alcohol to give 4.8 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate hydrochloride in the form of colorless flakes, mp 143° to 146° C.

reactant | 2-[4-(4-chloroanilinomethyl)-phenoxy]-2-methylpropionic acid | 6.27 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=C1 | C17H18ClNO3
reactant | sulfuric acid | 2.2 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 120 ml | C(C)O | C2H6O
product | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate hydrochloride | 4.8 g | Cl.ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | InChI=1S/C19H22ClNO3.ClH/c1-4-23-18(22)19(2,3)24-17-11-5-14(6-12-17)13-21-16-9-7-15(20)8-10-16;/h5-12,21H,4,13H2,1-3H3;1H
